US04405623
1-(2-Chloroethyl)piperidine hydrochloride (0.85 g) and sodium hydrogen carbonate (1.5 g) were added to a solution of 6-amino-3-ethoxycarbonyl-2,4-dimethylbenzoic acid (1.0 g) in ethanol (10 ml) and water (10 ml). The mixture was stirred at room temperature for 24 hours and then its pH was adjusted to 4-5 by addition of 10% hydrochloric acid. The solution was concentrated under reduced pressure, and the resulting residue was extracted with CHCl3. The CHCl3 extracts were combined, washed with water, and dried over anhydrous MgSO4. The solvent was evaporated, and the residue was recrystallized from ethanol/diethyl ether to give 3-ethoxycarbonyl-2,4-dimethyl-6-(2-piperidinoethylamino)benzoic acid dihydrochloride (1.2 g, 68%). MS: m/e, 348(M+), 304, 303, 259. NMR: δ (ppm CDCl3), 1.37 (3H, t), 1.75 (6H, b), 2.25 (3H, s), 2.41 (3H, s), 3.00 (6H, b), 3.65 (2H, b), 4.36 (2H, q), 6.33 (1H, s), 8.20 (2H, b).

reactant | 1-(2-Chloroethyl)piperidine hydrochloride | 0.85 g | Cl.ClCCN1CCCCC1
reactant | sodium hydrogen carbonate | 1.5 g | C(O)([O-])=O.[Na+]
reactant | 6-amino-3-ethoxycarbonyl-2,4-dimethylbenzoic acid | 1.0 g | NC1=CC(=C(C(=C1C(=O)O)C)C(=O)OCC)C | C12H15NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 3-ethoxycarbonyl-2,4-dimethyl-6-(2-piperidinoethylamino)benzoic acid dihydrochloride | 1.2 g, 68% | Cl.Cl.C(C)OC(=O)C=1C(=C(C(=O)O)C(=CC1C)NCCN1CCCCC1)C | InChI=1S/C19H28N2O4.2ClH/c1-4-25-19(24)16-13(2)12-15(17(14(16)3)18(22)23)20-8-11-21-9-6-5-7-10-21;;/h12,20H,4-11H2,1-3H3,(H,22,23);2*1H
